US09340555B2
To a stirred solution of ethyl 4-[({7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]butanoate (110 mg, 0.20 mmol) in 10 ml of THF was added 1M NaOH (2.0 ml, 2.0 mmol). The mixture was heated at 60° C. for 3 hours, cooled to room temperature and poured into 100 ml of water with vigorous stirring. 2M HCl was added dropwise until pH=4. The precipitates were filtered, washed with water and dried in vacuo to give 4-[({7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]butanoic acid as white solid. Yield: 100 mg, 96%.

reactant | ethyl 4-[({7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]butanoate | 0.20 mmol, 110 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCC(=O)OCC)C=C1 | C28H27FN4O5S
reactant | NaOH | 2.0 mmol, 1M, 2.0 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[({7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridin-2-yl}carbonyl)amino]butanoic acid | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCC(=O)O)C=C1 | C26H23FN4O5S
